US07141596B2
Step 2. 5-(4-{[2-(1H-Benzimidazol-2-yl)-5-oxopyrrolidin-2-yl]methyl}phenyl)isothiazolidin-3-one 1,1-dioxide
N-(2-aminophenyl)-2-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-5-oxopyrrolidine-2-carboxamide (6.6 mg, 0.01 mmol) was stirred in acetic acid (0.5 mL) and heated to 120° C. for 60 seconds in a microwave. Purification by preparative LCMS gave the title compound as a white solid, (2.5 mg, 42%), 1H NMR (400 MHz, CD3OD): δ 7.80 (m, 2H), 7.62 (m, 2H), 7.50 (d, J=8.8 Hz, 2H), 7.38 (d, J=8.3 Hz, 2H, 5.20 (m, 1H), 3.50 (m, 2H), 2.65 (m, 1H), 2.50 (m, 1H), 2.35 (m, 1H), 2.26 (m, 1H), 2.03 (m, 1H), 1.70 (m, 1H); LCMS found for C21H20N2O4S (M+H)+: m/z=425.

reactant | N-(2-aminophenyl)-2-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-5-oxopyrrolidine-2-carboxamide | 0.01 mmol, 6.6 mg | NC1=C(C=CC=C1)NC(=O)C1(NC(CC1)=O)CC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O | C21H22N4O5S
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 5-(4-{[2-(1H-Benzimidazol-2-yl)-5-oxopyrrolidin-2-yl]methyl}phenyl)isothiazolidin-3-one 1,1-dioxide | 2.5 mg, 42% | N1C(=NC2=C1C=CC=C2)C2(NC(CC2)=O)CC2=CC=C(C=C2)C2CC(NS2(=O)=O)=O | C21H20N4O4S
